US06110929
A suspension of 3-aminoquinoline-4-thiol (about 12 g) in a mixture of acetic anhydride (150 mL) and acetic acid (300 mL) was heated at reflux overnight. The reaction mixture was filtered to remove a fine solid. The filtrate was evaporated under vacuum. The residue was diluted with ethanol then refluxed for 30 minutes. The solution was concentrated under vacuum and the residue diluted with water. The aqueous residue was made basic with sodium hydroxide and then extracted with diethyl ether. The ether extracts were combined, dried over magnesium sulfate and filtered. The filtrate was evaporated to provide 12.8 g of crude product. A sample (800 mg) was recrystallized from hexane to provide 2-methylthiazolo[4,5-c]quinoline as yellow needles, m.p. 95.5-97.5° C.

reactant | 3-aminoquinoline-4-thiol | about 12 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 2-methylthiazolo[4,5-c]quinoline | CC=1SC2=C(C=NC=3C=CC=CC23)N1 | C11H8N2S
